US05750531
Synthesis of 2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride
After 4-fluoroaniline(0.40 ml, 4.2 mmol) was added to a mixture solution of 4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chlorocyclopenta[d]pyrimidine(0.60 g, 2.0 mmol) and dimethylformamide(5 ml), 0.11 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 4.2 mmol, 0.40 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(1-methyl-1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chlorocyclopenta[d]pyrimidine | 2.0 mmol, 0.60 g | CC1N(CCC2=CC=CC=C12)C1=C2C(NC(=N1)Cl)=CC=C2 | C17H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenylamino)-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)cyclopenta[d]pyrimidine hydrochloride | 0.11 g, Yield: 13.4% | Cl.FC1=CC=C(C=C1)NC1=NC(=C2C(N1)=CC=C2)N2C(C1=CC=CC=C1CC2)C | InChI=1S/C23H21FN4.ClH/c1-15-19-6-3-2-5-16(19)13-14-28(15)22-20-7-4-8-21(20)26-23(27-22)25-18-11-9-17(24)10-12-18;/h2-12,15H,13-14H2,1H3,(H2,25,26,27);1H
